US04137320
10 g of 3-methyl-6-hydroxymethyl-imidazo-(2,1-b)thiazole prepared as described in one of the methods in Example 26, is refluxed for 2 hours in 100 ml of SOCl2. The solution is then cooled, 50 ml of ether are added to yield 11 g of 3-methyl-6-chloromethyl-imidazo-(2,1-b)thiazole hydrochloride; m.p. 280°.

reactant | 3-methyl-6-hydroxymethyl-imidazo-(2,1-b)thiazole | 10 g | CC=1N2C(SC1)=NC(=C2)CO | C7H8N2OS
reactant | ether | 50 ml | CCOCC | C4H10O
reactant | SOCl2 | 100 ml | O=S(Cl)Cl | Cl2OS
product | 3-methyl-6-chloromethyl-imidazo-(2,1-b)thiazole hydrochloride | 11 g | Cl.CC=1N2C(SC1)=NC(=C2)CCl | InChI=1S/C7H7ClN2S.ClH/c1-5-4-11-7-9-6(2-8)3-10(5)7;/h3-4H,2H2,1H3;1H
